US07855297B2
By the reaction and treatment in the same manner as in Example 132 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (2.05 g) and 4-chloromethyl-1-(2,2,2-trifluoroethyl)pyrazole (1.02 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2,2,2-trifluoroethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.70 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 2.05 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
reactant | 4-chloromethyl-1-(2,2,2-trifluoroethyl)pyrazole | 1.02 g | ClCC=1C=NN(C1)CC(F)(F)F | C6H6ClF3N2
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2,2,2-trifluoroethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.70 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC(F)(F)F)C=1C=NC(=CC1)C(C)C | C32H33F3N4O2
